US04180559
Polyphosphoric acid, 500 grams, is heated to 120° C. and 30.5 grams of (5-chloro-2-phenoxyphenyl)acetic acid, prepared in accordance with the procedure of Example 2, is slowly added under an atmosphere of nitrogen with stirring. The reaction mixture is maintained at 120° C. for a period of about two hours, poured over a mixture of ice and water, and extracted into ethyl ether. The combined ether extracts are washed with water until the water washings appear neutral, extracted with a 2 N solution of sodium hydroxide, washed again with water until the water washings are neutral, dried over anhydrous sodium sulfate and filtered. The dried organic solvent is removed from the filtrate by distillation and the residue distilled in vacuo to yield 21 grams of 2-chlorodibenzo[b,f]oxepin-10(11H)-one having a b.p. of 127°-134° C./0.005 mm Hg. Upon recrystallization from methanol, a compound is obtained having an m.p. of 75°-76° C.

reactant | (5-chloro-2-phenoxyphenyl)acetic acid | 30.5 grams | ClC=1C=CC(=C(C1)CC(=O)O)OC1=CC=CC=C1 | C14H11ClO3
solvent | water | O | H2O
product | 2-chlorodibenzo[b,f]oxepin-10(11H)-one | 21 grams | ClC1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9ClO2
